US04672116
8-Chloro-4-hydrazino-2,5,6-trimethoxyquinazoline
A mixture of 8-chloro-2,4,5,6-tetramethoxyquinazoline (1.0 g, 0.0035 moles), anhydrous hydrazine (5 ml, 0.16 moles) and methanol (50 ml) was stirred at reflux for 0.5 hours. The solvent was removed in vacuo and the residue was recrystallized from methanol. The resulting crystals were washed with methanol (20 ml) and dried under vacuum at 50° C. to afford the product (0.665 g), mp 166°-168° C.

reactant | 8-chloro-2,4,5,6-tetramethoxyquinazoline | 0.0035 moles, 1.0 g | ClC=1C=C(C(=C2C(=NC(=NC12)OC)OC)OC)OC | C12H13ClN2O4
reactant | hydrazine | 0.16 moles, 5 ml | NN | H4N2
solvent | methanol | 50 ml | CO | CH4O
product | 8-Chloro-4-hydrazino-2,5,6-trimethoxyquinazoline | 0.665 g | ClC=1C=C(C(=C2C(=NC(=NC12)OC)NN)OC)OC | C11H13ClN4O3
